US07687624B2
4-(4-Cyanophenyl)-3-oxomorpholine
A mixture of 959 mg (8.12 mmol) of 4-aminobenzonitrile and 1.12 g of a mixture of 2-chlorodioxene and 2,2-dichlorodioxane (molar ratio 89:11) is heated at 80° C. with stirring for 18 hours. On cooling to room temperature, the product crystallises: 1.9 g of 2-(2-chloroethoxy)-N-(4-cyanophenyl)acetamide as yellowish crystals. 1H-NMR (d 6-DMSO): δ=3.82 (m; 4H), 4.19 (s; 2H), 7.78 (d, J=8 Hz, 2H), 7.85 (d, J=8 Hz, 2H), 10.22 (s, 1H).

reactant | 4-aminobenzonitrile | 8.12 mmol, 959 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 2,2-dichlorodioxane | ClC1(OCCOC1)Cl | C4H6Cl2O2
product | 4-(4-Cyanophenyl)-3-oxomorpholine | C(#N)C1=CC=C(C=C1)N1C(COCC1)=O | C11H10N2O2
